US09023858B2
A) ethyl 3-amino-1-(2,4-dimethoxybenzyl)-2-oxo-1,2-dihydropyridine-4-carboxylate
To a solution of ethyl 5-amino-1-(2,4-dimethoxybenzyl)-6-oxo-1,2,3,6-tetrahydropyridine-4-carboxylate (890 mg) in toluene (20 ml) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (785 mg) at room temperature, and the mixture was heated under reflux for 30 min, allowed to be cooled to room temperature, and diluted with ethyl acetate. The insoluble material was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (535 mg).

reactant | ethyl 5-amino-1-(2,4-dimethoxybenzyl)-6-oxo-1,2,3,6-tetrahydropyridine-4-carboxylate | 890 mg | NC1=C(CCN(C1=O)CC1=C(C=C(C=C1)OC)OC)C(=O)OCC | C17H22N2O5
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 785 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-amino-1-(2,4-dimethoxybenzyl)-2-oxo-1,2-dihydropyridine-4-carboxylate | 535 mg | NC=1C(N(C=CC1C(=O)OCC)CC1=C(C=C(C=C1)OC)OC)=O | C17H20N2O5
